US04501746
N-[(3-pyridyl)methyl]-N-(4-chlorophenyl)-α,α,α-trifluoroacetamide was prepared by the method of Example 19 by reacting 4.5 g. of N-(4-chlorophenyl)-[(3-pyridyl)methyl]amine with 10 ml. of trifluoroacetic anhydride in 50 ml. of 1,2-dichloroethane. Weight 3 g. M.P. 80°-81° C.

reactant | N-(4-chlorophenyl)-[(3-pyridyl)methyl]amine | ClC1=CC=C(C=C1)NCC=1C=NC=CC1 | C12H11ClN2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | N-[(3-pyridyl)methyl]-N-(4-chlorophenyl)-α,α,α-trifluoroacetamide | N1=CC(=CC=C1)CN(C(C(F)(F)F)=O)C1=CC=C(C=C1)Cl | C14H10ClF3N2O
